US04252802
2.5 g of [(1,3-Dihydro-1,3-dioxo-2H isoindole-2-yl)oxy]-N-(methoxy) acetamide made as in Example 2(a) is dissolved in 50 ml CH3OH at 0° C. with stirring. A solution of 0.35 g hydrazine in 10 ml methanol is added and stirring at 0° C. is continued for 12 hours. After this time an equivalent amount of hydrochloric acid in 5 ml CH3OH is added and the precipitate formed is filtered off. The mother liquor is evaporated to dryness and 2-(aminooxy)-N-(methoxy)acetamide, hydrochloride as a residual oil is formed and used in the next step without further purification.

reactant | [(1,3-Dihydro-1,3-dioxo-2H isoindole-2-yl)oxy]-N-(methoxy) acetamide | 2.5 g | O=C1N(C(C2=CC=CC=C12)=O)OCC(=O)NOC | C11H10N2O5
reactant | hydrazine | 0.35 g | NN | H4N2
reactant | hydrochloric acid | Cl | ClH
solvent | CH3OH | 50 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | CH3OH | 5 ml | CO | CH4O
product | 2-(aminooxy)-N-(methoxy)acetamide, hydrochloride | Cl.NOCC(=O)NOC | InChI=1S/C3H8N2O3.ClH/c1-7-5-3(6)2-8-4;/h2,4H2,1H3,(H,5,6);1H
